US05085686
a) 2-Methoxy-6-(1,2,4-triazol- 1-yl)-benzonitrile:
A solution of 30.2 g (0.20 mol) of 2-methoxy-6-fluorobenzonitrile [preparation: J. Heterocycl. Chem. 25 (1988), 1173]in 50 ml of N,N-dimethylformamide is added dropwise at 45°-50° C., under nitrogen, to a solution of 0.21 mol of sodium triazolide (prepared from equimolar amounts of triazol and sodium hydride) in 100 ml of N,N-dimethylformamide, and the mixture is stirred for 2 h at 0° C. After the solvent has been evaporated under reduced pressure, the residue is stirred with 200 ml of ice water, the pH is brought to 6 with a little glacial acetic acid and the solid is filtered off under suction and dried. After the addition of a little ether, 35 g of the product of melting point 169°-171° C. (decomposition) are obtained.

reactant | 2-methoxy-6-fluorobenzonitrile | 0.20 mol, 30.2 g | COC1=C(C#N)C(=CC=C1)F | C8H6FNO
reactant | sodium triazolide | 0.21 mol | N1N=N[C-]=C1.[Na+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Methoxy-6-(1,2,4-triazol- 1-yl)-benzonitrile | COC1=C(C#N)C(=CC=C1)N1N=CN=C1 | C10H8N4O
